US05780482
A mixture of ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate (2.4 g), 4-(2-hydroxyethoxy)aniline (1.4 g), anhydrous potassium carbonate (2.49 g) and THF (70 ml) was stirred at ambient temperature for 3 days. The mixture was filtered and the filtrate evaporated to dryness. The residue was ground up in ether and filtered. The residue was dissolved in dichloromethane and purified by chromatography on silica. The product fractions were combined, dissolved in IMS (150 ml) and saturated with hydrogen chloride gas. The mixture was cooled in ice and diluted with ether to induce precipitation. The mixture was filtered to give ethyl 6-ethoxy-4-[4-(2-hydroxyethoxy)anilino]-1,5-naphthyridine-3-carboxylate hydrochloride, m.p. 177°-178° C.

reactant | ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate | 2.4 g | ClC1=C(C=NC2=CC=C(N=C12)OCC)C(=O)OCC | C13H13ClN2O3
reactant | 4-(2-hydroxyethoxy)aniline | 1.4 g | OCCOC1=CC=C(N)C=C1 | C8H11NO2
reactant | potassium carbonate | 2.49 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | ethyl 6-ethoxy-4-[4-(2-hydroxyethoxy)anilino]-1,5-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OCCO | InChI=1S/C21H23N3O5.ClH/c1-3-27-18-10-9-17-20(24-18)19(16(13-22-17)21(26)28-4-2)23-14-5-7-15(8-6-14)29-12-11-25;/h5-10,13,25H,3-4,11-12H2,1-2H3,(H,22,23);1H
